US08703907B2
A solution of fluorene-2-carbonyl chloride (prepared from fluorene-2-carboxylic acid and oxalyl chloride) in THF is added to aqueous methylamine (2 molar equivalents) to prepare N-methyl fluorene-2-carboxamide. Reduction of the amide using LiAlH4 in ether provides 2-((methylamino)methyl)fluorene. The amine is protected by reaction with di-tert-butyl dicarbonate to provide 24N-tBOC—N-methylamino)methyl)fluorene.

reactant | fluorene-2-carbonyl chloride | C1=C(C=CC=2C3=CC=CC=C3CC12)C(=O)Cl | C14H9ClO
reactant | methylamine | 2 molar | CN | CH5N
reactant | N-methyl fluorene-2-carboxamide | CNC(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H13NO
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-((methylamino)methyl)fluorene | CNCC1=CC=2CC3=CC=CC=C3C2C=C1 | C15H15N
